US05089493
Preparation of 4-Chloro-6,7-dihydro-2,8-dimethylpyrimido[5,4-b][1,4]oxazin-7-one
Using the method of Sazonov, et al., Khimiya Geterotsiklicheskikh Soedinenii, 9, 1285-1288 (1972), 4-chloro-6,7-dihydro-2-methyl-8H-pyrimido[5,4-b][1,4]oxazin-7-one was prepared. To a mixture of 8.0g (0.0402 mole) of 4-chloro-6,7-dihydro-2-methyl-8H-pyrimido[5,4-b][1,4]oxazin-7-one and 17.9 ml of methyl iodide was added 8.75g of 25% sodium methoxide in 250 ml of methanol, and the solution was heated at its reflux temperature for three hours. The solvent was removed by evaporation under vacuum, and the solid was separated by filtration, washed with water, and dried. The yellow solid was 4-chloro 6,7-dihydro-2,8-dimethylpyrimido[5,4-b][1,4]oxazin-7-one, m.p. 142°-143° C.

reactant | 4-chloro-6,7-dihydro-2-methyl-8H-pyrimido[5,4-b][1,4]oxazin-7-one | ClC1=NC(=NC2=C1OCC(N2)=O)C | C7H6ClN3O2
reactant | 4-chloro-6,7-dihydro-2-methyl-8H-pyrimido[5,4-b][1,4]oxazin-7-one | 0.0402 mole, 8.0g | ClC1=NC(=NC2=C1OCC(N2)=O)C | C7H6ClN3O2
reactant | methyl iodide | 17.9 ml | CI | CH3I
reactant | sodium methoxide | 8.75g | C[O-].[Na+]
solvent | methanol | 250 ml | CO | CH4O
product | 4-Chloro-6,7-dihydro-2,8-dimethylpyrimido[5,4-b][1,4]oxazin-7-one | ClC1=NC(=NC2=C1OCC(N2C)=O)C | C8H8ClN3O2
